US04322346
Preparation of 1-(3,4-dimethoxyphenyl)-4-methyl-5-ethyl-7-hydroxy-8-methoxy-5H-2,3-benzodiazepine
34.5 ml of 98% hydrazine hydrate are added dropwise, within 5 minutes, to a stirred solution of 115 g (0.325 mole) of 1-(3,4-dimethoxyphenyl)-3-methyl-4-ethyl-7-methoxy-6H-2-benzopyran-6-one in 115 ml of glacial acetic acid. During this operation the solution is maintained at 80° to 100° C. The solution is immersed into a water bath (95° to 100° C.) for one hour, then it is diluted with 140 ml of 2% aqueous sodium hydroxide solution and cooled. The 5H-2,3-benzodiazepine derivative separates as a beige crystalline substance. The solids are filtered off, washed four times with 50 ml of water each and dried. 111.7 g of the crude product are obtained; m.p.: 210°-212° C. To purify the crude product it is dissolved in 223 ml of dimethyl formamide at 100° to 130° C., and the solution is decolorized with 2 g of activated carbon. The carbon is filtered off and washed thrice with 50 ml of dimethyl formamide each. The solution is filtered with 1300 ml of distilled water, whereupon the pure product separates in crystalline form. 110.35 g (94%) of the title compound are obtained; m.p.: 210°-212° C. According to gas chromatographical examination the purity grade of the product is above 99%. C21H24N2O4 =368.4.

reactant | hydrazine hydrate | 34.5 ml | O.NN
reactant | 1-(3,4-dimethoxyphenyl)-3-methyl-4-ethyl-7-methoxy-6H-2-benzopyran-6-one | 0.325 mole, 115 g | COC=1C=C(C=CC1OC)C=1OC(=C(C=2C1C=C(C(C2)=O)OC)CC)C | C21H22O5
reactant | 5H-2,3-benzodiazepine | C1=NN=CCC2=C1C=CC=C2 | C9H8N2
solvent | acetic acid | 115 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 140 ml | [OH-].[Na+]
product | 1-(3,4-dimethoxyphenyl)-4-methyl-5-ethyl-7-hydroxy-8-methoxy-5H-2,3-benzodiazepine | 110.35 g, 94% | COC=1C=C(C=CC1OC)C1=NN=C(C(C2=C1C=C(C(=C2)O)OC)CC)C | C21H24N2O4
